US07425653B2
(3-4) Synthesis of 2-isopropyl-6-(4-isopropyl-2-(2-methoxyvinyl)phenyl)naphthalene
Under an atmospheric argon gas flow, 5-isopropyl-2-(6-isopropyl-2-naphthyl)benzaldehyde in an amount of 4.4 g (14 mmol), (methoxymethyl)triphenylphosphoniumchloride in an amount of 5.1 g (15 mmol), t-butoxypotassium in an amount of 1.7 g (15 mmol) and desiccated tetrahydrofuran in an amount of 100 milliliter were placed into a three-necked flask equipped with a cooling pipe and having a capacity of 500 milliliter, and the resultant solution was stirred under heating at the room temperature for one night. After the reaction terminated, adding water in an amount of 100 milliliter into the reacted solution, an organic layer was separated, followed by drying with the use of magnesium sulfate. After removing the solvent by distillation by means of a rotary evaporator, the resultant crude product was refined by means of column chromatography (silicagel, hexane/dichloromethane=10/90), and as a result, 4.3 g of an aimed compound (white crystal) was obtained (yield: 90%).

reactant | 5-isopropyl-2-(6-isopropyl-2-naphthyl)benzaldehyde | C(C)(C)C=1C=CC(=C(C=O)C1)C1=CC2=CC=C(C=C2C=C1)C(C)C | C23H24O
reactant | (methoxymethyl)triphenylphosphoniumchloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-butoxypotassium | C(C)(C)(C)O[K]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-isopropyl-6-(4-isopropyl-2-(2-methoxyvinyl)phenyl)naphthalene | 4.3 g, yield: 90% | C(C)(C)C1=CC2=CC=C(C=C2C=C1)C1=C(C=C(C=C1)C(C)C)C=COC | C25H28O
